US08629270B2
[(4aR,7aR)-7a-(5-Fluorothiophen-2-yl)-6-(pyrimidin-2-yl)-4,4a,5,6,7,7a-hexahydropyrrolo[3,4-d][1,3]thiazin-2-amine hydrochloride
To a stirred clear colorless solution of the [(4aR,7aR)-7a-(5-fluorothiophen-2-yl)-6-(pyrimidin-2-yl)-4,4a,5,6,7,7a-hexahydropyrrolo[3,4-d][1,3]thiazin-2-amine (318 mg, 948 μmol) in diethyl ether (10 mL) and dichloromethane (10 mL) is added a solution of 1 M HCl in diethyl ether (1.05 mL, 1.05 mmol). The resulting white mixture is stirred for a few minutes, then the solid is collected and washed with diethyl ether (15 mL), to give the title compound (325 mg, 92%) as a white solid. ES/MS (m/e): 336.0 (M+H).

reactant | (4aR,7aR)-7a-(5-fluorothiophen-2-yl)-6-(pyrimidin-2-yl)-4,4a,5,6,7,7a-hexahydropyrrolo[3,4-d][1,3]thiazin-2-amine | 948 μmol, 318 mg | FC1=CC=C(S1)[C@@]12N=C(SC[C@@H]1CN(C2)C2=NC=CC=N2)N | C14H14FN5S2
reactant | HCl | 1 M | Cl | ClH
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 1.05 mmol, 1.05 mL | C(C)OCC | C4H10O
product | (4aR,7aR)-7a-(5-Fluorothiophen-2-yl)-6-(pyrimidin-2-yl)-4,4a,5,6,7,7a-hexahydropyrrolo[3,4-d][1,3]thiazin-2-amine hydrochloride | 325 mg, 92% | Cl.FC1=CC=C(S1)[C@@]12N=C(SC[C@@H]1CN(C2)C2=NC=CC=N2)N | InChI=1S/C14H14FN5S2.ClH/c15-11-3-2-10(22-11)14-8-20(13-17-4-1-5-18-13)6-9(14)7-21-12(16)19-14;/h1-5,9H,6-8H2,(H2,16,19);1H/t9-,14-;/m0./s1
